US09085583B2
To tert-butyl 1-(1-hydroxypropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (380 mg, 1.31 mmol) in CH2Cl2 (5 ml) were added DMP (610.6 mg, 1.44 mmol) at 25° C. for 18 h. After the reaction completed, the solution was purified by silica gel and concentrated under reduced pressure to give tert-butyl 2-methyl-1-(1-oxopropan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate as a white oil (200 mg, yield 53%).

reactant | tert-butyl 1-(1-hydroxypropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 1.31 mmol, 380 mg | OCC(C)N1C(=C(C=2C1=NC=CC2)C(=O)OC(C)(C)C)C | C16H22N2O3
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-methyl-1-(1-oxopropan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 200 mg, yield 53% | CC1=C(C=2C(=NC=CC2)N1C(C=O)C)C(=O)OC(C)(C)C | C16H20N2O3
